US08440662B2
Step 3: 1-(4-Bromo-phenyl)-3-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-urea
To a solution of (4-amino-phenyl)-(4-methyl-piperazine-1-yl)-methanone (10.0 g, 0.0456 mol) and TEA (4.7 g, 0.0456 mol) in DCM (150 mL) was added 4-bromophenyl isocyanate (10.9 g, 0.0547 mol). The reaction mixture was stirred at room temperature for 12 h. The white solid was obtained and was filtered and dried to afford the title compound [15.0 g, 79%]; LC-MS (ESI): Calculated mass: 416.1; Observed mass: 417.1 [M+H]+ (RT: 0.23 min).

reactant | (4-amino-phenyl)-(4-methyl-piperazine-1-yl)-methanone | 0.0456 mol, 10.0 g | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C12H17N3O
reactant | 4-bromophenyl isocyanate | 0.0547 mol, 10.9 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Bromo-phenyl)-3-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-urea | 15.0 g, 79% | BrC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C19H21BrN4O2
